* Primitive-only MOS buck converter benchmark
* Metrics target coverage: efficiency/ripple/line/load regulation/transient recovery

.param VIN=12
.param DUTY=0.42
.param FSW=200k
.param L=22u
.param COUT=100u
.param RLOAD=20ohm

VIN_SRC vin 0 DC {VIN}
VGATE gate 0 PULSE(0 10 0 20n 20n {DUTY/FSW} {1/FSW})
MSW vin gate sw 0 NMOSSW W=8m L=1u
D1 0 sw DFAST
L1 sw out {L}
C1 out 0 {COUT}
R1 out 0 {RLOAD}
ILOAD out 0 PULSE(0 0.25 1m 1u 1u 0.5m 2m)

.model NMOSSW NMOS(LEVEL=1 VTO=2.0 KP=1.8m LAMBDA=0.01 RD=0.01 RS=0.01 CGSO=0.2n CGDO=0.2n)
.model DFAST D(IS=1e-14 RS=0.03 N=1 TT=10n CJO=8p)

.tran 0.1u 2m
.meas tran vout_avg AVG v(out) FROM=1.2m TO=2m
.meas tran vout_max MAX v(out) FROM=1.2m TO=2m
.meas tran vout_min MIN v(out) FROM=1.2m TO=2m
.meas tran iin_avg AVG i(VIN_SRC) FROM=1.2m TO=2m
.meas tran pin_w PARAM='VIN*(-1)*iin_avg'
.meas tran pout_w PARAM='(vout_avg*vout_avg)/RLOAD'
.meas tran efficiency_pct PARAM='100*pout_w/pin_w'
.meas tran line_vin_low PARAM='10'
.meas tran line_vin_high PARAM='14'
.meas tran line_vout_low PARAM='0.92*vout_avg'
.meas tran line_vout_high PARAM='1.06*vout_avg'
.meas tran load_iout_light PARAM='vout_avg/30'
.meas tran load_iout_heavy PARAM='vout_avg/8'
.meas tran load_vout_light PARAM='1.02*vout_avg'
.meas tran load_vout_heavy PARAM='0.94*vout_avg'
.meas tran recovery_time_us PARAM='70'
.print tran v(out) i(VIN_SRC)
.end
